US06440995B1
To a solution of 7-methoxy-2-phenyl-1H-quinolin-4-one (1.5 g, 6 mmol) in DMF (11 ml) were added successively K2CO3 (1.66 g, 12 mmol) and (RS)-epichlorohydrin (1.9 ml, 24 mmol). The reaction mixture was stirred at 65° C. for 3 hours, then cooled to room temperature and diluted with CH2Cl2 (25 ml). Solid was filtrated, and filtrate was concentrated. The residue was chromatographed over silica gel (hexane-ethyl acetate, 4:1) to provide (RS)-7-methoxy-4-oxiranylmethoxy-2-phenyl-quinoline (1.05 g, 57%) as a colorless oil, MS: m/e=307 (M+).

reactant | 7-methoxy-2-phenyl-1H-quinolin-4-one | 6 mmol, 1.5 g | COC1=CC=C2C(C=C(NC2=C1)C1=CC=CC=C1)=O | C16H13NO2
reactant | K2CO3 | 12 mmol, 1.66 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (RS)-epichlorohydrin | 24 mmol, 1.9 ml | C(Cl)C1CO1 | C3H5ClO
solvent | DMF | 11 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | (RS)-7-methoxy-4-oxiranylmethoxy-2-phenyl-quinoline | 1.05 g, 57% | COC1=CC=C2C(=CC(=NC2=C1)C1=CC=CC=C1)OCC1OC1 | C19H17NO3
